US07652041B2
Step 2. Preparation of (2E)-2-(3-methoxybenzylidene)butanoic acid
(E)-Ethyl-2-(3-methoxybenzylidene)butanoate (300 mg, 1.28 mmol) was dissolved in THF (30 mL), and LiOH (61 mg, 2.56 mmol), and water (100 μL) were added. The reaction mixture was heated to reflux for 48 h and then cooled to rt. The reaction mixture was diluted with EtOAc and 1N HCl. The aqueous phase was extracted with EtOAc and the combined organic solutions were dried over Na2SO4, filtered, and concentrated. Purification by column chromatography (SiO2, 0-70% EtOAc with 1% acetic acid in DCM) provided the title compound (190 mg). 1H NMR (400 MHz, d6-DMSO): δ 7.52 (s, 1H), 7.37-7.33 (dd, 1H), 6.99 (d, 1H), 6.95-6.93 (m, 2H), 3.77 (s, 3H), 2.43 (q, 2H), and 1.10 (t, 3H).

reactant | (E)-Ethyl-2-(3-methoxybenzylidene)butanoate | 1.28 mmol, 300 mg | C(C)OC(/C(/CC)=C/C1=CC(=CC=C1)OC)=O | C14H18O3
reactant | LiOH | 2.56 mmol, 61 mg | [Li+].[OH-]
reactant | water | 100 μL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | (2E)-2-(3-methoxybenzylidene)butanoic acid | 190 mg | COC=1C=C(\C=C(\C(=O)O)/CC)C=CC1 | C12H14O3
